US06265421B1
a) 5,7-Dimethoxy-4-methyl-2(1H)-quinolinone
tert-Butyl acetoacetate (1.58 g) was heated to 120° C. and 3,5-dimethoxyaniline (1.53 g) dissolved in xylene (4 ml) was added. The mixture was heated at 120-130° C. for 20 minutes and then cooled to room temperature. Methanesulfonic acid (2 ml) was added and the mixture was stirred at ambient temperature for 10 minutes. Water (40 ml) was added and the precipitate filtered and dried. Yield 1.31 g (60%).

reactant | tert-Butyl acetoacetate | 1.58 g | C(CC(=O)C)(=O)OC(C)(C)C | C8H14O3
reactant | 3,5-dimethoxyaniline | 1.53 g | COC=1C=C(N)C=C(C1)OC | C8H11NO2
reactant | Methanesulfonic acid | 2 ml | CS(=O)(=O)O | CH4O3S
reactant | Water | 40 ml | O | H2O
solvent | xylene | 4 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 5,7-Dimethoxy-4-methyl-2(1H)-quinolinone | COC1=C2C(=CC(NC2=CC(=C1)OC)=O)C | C12H13NO3
